* rtl/spice/t_class.spice
*
* T_CLASS — ternary slot classifier
*
* Function:
*   Takes {p0, p1} (2-bit ternary encoding) and produces three one-hot flags:
*     is_neg  = ~p0 & ~p1   (NOR2)
*     is_zero = ~p0 &  p1   (AND2 using shared ~p0)
*     is_pos  =  p0 & ~p1   (AND2 using shared ~p1)
*
* Note: {p0=1, p1=1} is DC (don't-care) — unused in pgress encoding.
*       is_neg + is_zero + is_pos = 1 for all valid inputs.
*
* Sky130 cell instantiation:
*   is_neg  : sky130_fd_sc_hd__nor2_1    (NOR(p0, p1) = ~p0 & ~p1)
*   inv_p0  : sky130_fd_sc_hd__inv_1     (shared ~p0 for is_neg, is_zero)
*   inv_p1  : sky130_fd_sc_hd__inv_1     (shared ~p1 for is_neg, is_pos)
*   is_zero : sky130_fd_sc_hd__and2_0    (AND(inv_p0, p1))
*   is_pos  : sky130_fd_sc_hd__and2_0    (AND(p0, inv_p1))
*   Total: 5 cells, ~20 transistors
*
* Measurements:
*   tpd_neg   : propagation delay p0/p1 → is_neg  (critical: NOR path)
*   tpd_zero  : propagation delay p0/p1 → is_zero (through INV + AND)
*   tpd_pos   : propagation delay p0/p1 → is_pos  (through INV + AND)
*   power_active : average VDD current during stimulus
*
* Expected:
*   tpd_neg  ~0.05 ns (NOR2 direct path, sky130 HD)
*   tpd_zero ~0.10 ns (INV + AND2, two gate levels)
*   tpd_pos  ~0.10 ns (INV + AND2, two gate levels)
*   This sets the floor for the full N-input ternary_cell critical path.

.title T_CLASS ternary slot classifier — sky130_fd_sc_hd

* ── PDK include ──────────────────────────────────────────────────────────────
* Adjust PDK_ROOT to your sky130 installation.
* Options:
*   volare:   $HOME/.volare/sky130A/libs.ref/sky130_fd_sc_hd/spice/
*   open_pdks: /usr/local/share/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/
*   pip sky130: see `python3 -c "import sky130; print(sky130.PDK_ROOT)"`
.include "$PDK_ROOT/sky130_fd_sc_hd.spice"

* ── Supply ───────────────────────────────────────────────────────────────────
.param VDD=1.8
Vvdd VDD 0 DC 'VDD'
Vvss VSS 0 DC 0

* ── DUT ──────────────────────────────────────────────────────────────────────
* Shared inversions (reused by two downstream AND cells each)
Xinv_p0  p0 inv_p0  VDD VSS sky130_fd_sc_hd__inv_1
Xinv_p1  p1 inv_p1  VDD VSS sky130_fd_sc_hd__inv_1

* is_neg = NOR(p0, p1) = ~p0 & ~p1
Xnor2    p0 p1 is_neg  VDD VSS sky130_fd_sc_hd__nor2_1

* is_zero = AND(~p0, p1)
Xand_zero  inv_p0 p1 is_zero  VDD VSS sky130_fd_sc_hd__and2_0

* is_pos = AND(p0, ~p1)
Xand_pos   p0 inv_p1 is_pos   VDD VSS sky130_fd_sc_hd__and2_0

* ── Stimulus ─────────────────────────────────────────────────────────────────
* Step through all valid ternary inputs:
*   0–5 ns:   Neg  {p0=0, p1=0}  → expect is_neg=1, is_zero=0, is_pos=0
*   5–10 ns:  Pos  {p0=1, p1=0}  → expect is_neg=0, is_zero=0, is_pos=1
*   10–15 ns: Zero {p0=0, p1=1}  → expect is_neg=0, is_zero=1, is_pos=0
*   15–20 ns: Neg  {p0=0, p1=0}  → back to Neg
*   20–25 ns: Zero {p0=0, p1=1}  → Zero again (recovery)
*   25–30 ns: Pos  {p0=1, p1=0}  → Pos recovery
*
* Rise/fall = 10 ps (sky130 HD typical slew)
Vp0 p0 0 PWL(
+  0ns   0
+  5ns   0
+  5.01ns 'VDD'
+ 10ns   'VDD'
+ 10.01ns 0
+ 15ns   0
+ 20ns   0
+ 25ns   0
+ 25.01ns 'VDD'
+ 30ns   'VDD')

Vp1 p1 0 PWL(
+  0ns   0
+  10ns  0
+  10.01ns 'VDD'
+ 15ns  'VDD'
+ 15.01ns 0
+ 20ns  0
+ 20.01ns 'VDD'
+ 25ns  'VDD'
+ 25.01ns 0
+ 30ns  0)

* ── Simulation ───────────────────────────────────────────────────────────────
.tran 1ps 30ns

* ── Measurements ─────────────────────────────────────────────────────────────
* Propagation delay: p0 0→1 at t=5ns → is_pos should rise
.measure tran tpd_pos TRIG v(p0) VAL='VDD/2' RISE=1 TD=4ns
+                     TARG v(is_pos) VAL='VDD/2' RISE=1

* Propagation delay: p1 0→1 at t=10ns → is_zero should rise
.measure tran tpd_zero TRIG v(p1) VAL='VDD/2' RISE=1 TD=9ns
+                      TARG v(is_zero) VAL='VDD/2' RISE=1

* Propagation delay: p0 1→0 at t=10ns → is_neg should rise (NOR direct path)
.measure tran tpd_neg TRIG v(p0) VAL='VDD/2' FALL=1 TD=9ns
+                     TARG v(is_neg) VAL='VDD/2' RISE=1

* Average power (full transient)
.measure tran power_avg AVG POWER FROM=0ns TO=30ns

* ── Output ───────────────────────────────────────────────────────────────────
.print tran v(p0) v(p1) v(is_neg) v(is_zero) v(is_pos)
.control
  run
  plot v(p0) v(p1) v(is_neg) v(is_zero) v(is_pos)
  print tpd_neg tpd_zero tpd_pos power_avg
.endc

.end
